US07608639B2
3-(2-Methyl-4-{3-methyl-5-[2-(2-oxo-2H-pyridin-1-yl)-4-trifluoromethyl-phenoxy]-phenoxy}-phenyl)-propionic acid
The title compound is prepared by reacting the compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with 2-hydroxypyridine as in Example 45 to afford 0.010 g (8%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C29H24NO5F3 523, found 524 (M+1, 100%).

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | 2-hydroxypyridine | OC1=NC=CC=C1 | C5H5NO
product | 3-(2-Methyl-4-{3-methyl-5-[2-(2-oxo-2H-pyridin-1-yl)-4-trifluoromethyl-phenoxy]-phenoxy}-phenyl)-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)N1C(C=CC=C1)=O)C)CCC(=O)O | C29H24F3NO5
